US07960552B2
To a solution of ethyl 6-[4-({[3-{[(2,6-dichlorophenyl)sulfonyl]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (4 mg, 0.006 mmol) in 1:1 tetrahydrofuran:methanol (0.5 mL) was added 1 N sodium hydroxide (0.020 mL, 0.020 mmol). The solution was heated in a microwave reactor at 75° C. for approximately 10 minutes. Then the mixture was diluted with dichloromethane and 1 N hydrochloric (0.020 mL, 0.020 mmol) was added. The solution was washed with water, dried over magnesium sulfate and concentrated to afford 6-[4-({[3-{[(2,6-dichlorophenyl)sulfonyl]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid (1 mg, 25%). 1H-NMR (400 MHz, CDCl3) δ 8.44 (d, J=8 Hz, 1H), 8.29 (d, J=8 Hz, 1H), 8.21 (d, J=8 Hz, 1H), 8.10-8.07 (m, 2H), 7.71 (d, J=8 Hz, 2H), 7.47-7.38 (m, 3H), 7.12 (d, J=8 Hz, 2H), 5.16 (s, 2H), 4.86 (s, 2H), 3.25 (septet, J=7 Hz, 1H), 1.34 (d, J=7 Hz, 6H). LRMS m/z 609 [M−H]−.

reactant | ethyl 6-[4-({[3-{[(2,6-dichlorophenyl)sulfonyl]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.006 mmol, 4 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)CC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OCC)C(C)C | C32H28Cl2N2O6S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methanol | 0.5 mL | CO | CH4O
reactant | sodium hydroxide | 0.020 mmol, 1 N, 0.020 mL | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-[4-({[3-{[(2,6-dichlorophenyl)sulfonyl]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid | 1 mg, 25% | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)CC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O)C(C)C | C30H24Cl2N2O6S
